US07662771B2
4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid methyl ester
Combine 4-[4-(2-nitro-phenyl)-oxazol-2-yl]-butyric acid methyl ester (3.0 g, 10.3 mmol) with Pd/C (5%, 450 mg) and Pd/black (50 mg) in THF (150 mL) and react with hydrogen (init. 40 psi) in a Parr® apparatus. When reduction is complete, filter the mixture through Celite® and concentrate the filtrate. Drying allows for recovery of crude 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid methyl ester (2.36 g, 88%). MS (ES): (M+1)+ 261.2 m/z.

reactant | 4-[4-(2-nitro-phenyl)-oxazol-2-yl]-butyric acid methyl ester | 10.3 mmol, 3.0 g | COC(CCCC=1OC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-])=O | C14H14N2O5
reactant | hydrogen | [H][H] | H2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 450 mg | [Pd] | Pd
catalyst | Pd | 50 mg | [Pd] | Pd
product | 4-[4-(2-amino-phenyl)-oxazol-2-yl]-butyric acid methyl ester | COC(CCCC=1OC=C(N1)C1=C(C=CC=C1)N)=O | C14H16N2O3
